US05266575
α, α-Dimethyl-2-ethyl-1H-imidazo[4,5-c]quinoline-1-ethanol
A mixture containing 15.4 g (0.067 mol) of 1-[(3-amino-4-quinolinyl)amino]-2-methyl-2-propanol (U.S. Pat. No. 4,689,338 example 189) and 14.5 mL (0.07 mol) of triethyl orthopropionate was heated at about 165° C. for about 2 hours. The resulting solid was slurried in a mixture of ethyl acetate and ether, collected and dried to provide 15.2 g of a solid. This material was used without further purification.

reactant | 1-[(3-amino-4-quinolinyl)amino]-2-methyl-2-propanol | 0.067 mol, 15.4 g | NC=1C=NC2=CC=CC=C2C1NCC(C)(O)C | C13H17N3O
reactant | triethyl orthopropionate | 0.07 mol, 14.5 mL | C(CC)(OCC)(OCC)OCC | C9H20O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | α, α-Dimethyl-2-ethyl-1H-imidazo[4,5-c]quinoline-1-ethanol | 15.2 g | CC(CN1C(=NC=2C=NC=3C=CC=CC3C21)CC)(O)C | C16H19N3O
